US08563541B2
Intermediate D-3: tert-Butyl 3-[2-(2-fluoropyridin-3-yl)-2-hydroxyethyl]pyridin-4-ylcarbamate
A solution of tert-butyl (3-methylpyridin-4-yl)carbamate (1.00 g, 4.80 mmol, Intermediate D-2) in THF (50 mL) was cooled to −78° C. under an atmosphere of nitrogen. A solution of n-butyllithium (4.80 mL, 2.5 M in hexane, 12.0 mmol) was added slowly maintaining the internal temperature below −65° C. After the addition, the mixture was warmed to 0° C. for 20 minutes (orange suspension turned homogeneous). The solution was then cooled to −78° C. and 2-fluoronicotinaldehyde (0.901 g, 7.20 mol, Intermediate D-1) in THF (5 mL) was added dropwise. After 10 minutes, the dark red/brown mixture was allowed to slowly warm to 0° C. After 30 minutes, the reaction was quenched with NH4Cl/water. The mixture was further diluted with NaHCO3/water and extracted three times with ethyl acetate. The combined extracts were washed with brine, dried over MgSO4, filtered, and concentrated. The residue was purified by chromatography on silica gel eluting with 75% ethyl acetate/hexane. Pure fractions were combined, concentrated and then triturated with ethyl acetate to provide the desired product as a white solid (0.55 g, 34%). 1H NMR (DMSO-d6) δ 9.09 (s, 1H), 8.23 (d, 1H), 8.09 (d, 1H), 8.02 (s, 1H), 7.85 (m, 1H), 7.67 (d, 1H), 7.29 (m, 1H), 6.32 (d, 1H), 5.03 (m, 1H), 3.00 (m, 2H), 1.47 (s, 9H). LC/MS: 334 (M+H)+.

reactant | tert-butyl (3-methylpyridin-4-yl)carbamate | 4.80 mmol, 1.00 g | CC=1C=NC=CC1NC(OC(C)(C)C)=O | C11H16N2O2
reactant | n-butyllithium | 12.0 mmol, 2.5 M, 4.80 mL | C(CCC)[Li]
reactant | 2-fluoronicotinaldehyde | 7.20 mol, 0.901 g | FC1=C(C=O)C=CC=N1 | C6H4FNO
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | tert-Butyl 3-[2-(2-fluoropyridin-3-yl)-2-hydroxyethyl]pyridin-4-ylcarbamate | 0.55 g, 34% | FC1=NC=CC=C1C(CC=1C=NC=CC1NC(OC(C)(C)C)=O)O | C17H20FN3O3
